US05646173
A solution of 21.5 g of 4-methoxy-1-indanone, 27.4 ml of 3-buten-2-ol and 210 mg of p-toluenesulfonic acid in 27.4 ml of 2,2-dimethoxypropane and 210 ml of anhydrous toluene was boiled under reflux for 16 hours. The reaction mixture was subsequently concentrated in a vacuum and purified by column chromatography on silica gel (hexane/ethyl acetate 9:1). 6.42 g (23%) of (RS)-2-(2-buten-1-yl)-4-methoxy-1-indanone were obtained as a yellow oil.

reactant | 4-methoxy-1-indanone | 21.5 g | COC1=C2CCC(C2=CC=C1)=O | C10H10O2
reactant | 3-buten-2-ol | 27.4 ml | CC(C=C)O | C4H8O
reactant | p-toluenesulfonic acid | 210 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | 2,2-dimethoxypropane | 27.4 ml | COC(C)(C)OC | C5H12O2
solvent | toluene | 210 ml | C1(=CC=CC=C1)C | C7H8
product | (RS)-2-(2-buten-1-yl)-4-methoxy-1-indanone | 6.42 g, 23% | C(C=CC)C1C(C2=CC=CC(=C2C1)OC)=O | C14H16O2
